US07947715B2
Step 3: Production of 3-(6-aminomethyl-5-chloro-3-pyridyl)-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole (Compound of the present invention No. 10-001)
In a solution of 0.32 g of 3-(5-chloro-6-cyano-3-pyridyl)-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole in 12 mL of methanol, 0.5 mL of concentrated hydrochloric acid and 0.10 g of 5% palladium carbon were added, and stirred at room temperature under hydrogen atmosphere of normal pressure for 2.5 hours. After the completion of the reaction, the reaction mixture was filtered through Celite, and the solvent was distilled off under reduced pressure to obtain 0.30 g of the aimed product as brown resinous substance.

reactant | 3-(5-chloro-6-cyano-3-pyridyl)-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole | 0.32 g | ClC=1C=C(C=NC1C#N)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C16H7Cl3F3N3O
solvent | methanol | 12 mL | CO | CH4O
solvent | hydrochloric acid | 0.5 mL | Cl | ClH
catalyst | palladium carbon | 0.10 g | [C].[Pd]
product | 3-(6-aminomethyl-5-chloro-3-pyridyl)-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole | 0.30 g | NCC1=C(C=C(C=N1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)Cl | C16H11Cl3F3N3O
